US08049006B2
Isoserine (454 mg) was dissolved in 2M sodium hydroxide aqueous solution (4 ml) and tetrahydrofuran (8 ml), then di-tert-butyldicarbonate (1 g) was added and the mixture was stirred at room temperature for 1.5 hours. Further, di-tert-butyldicarbonate (0.5 g) was added and the mixture was stirred at room temperature for 1 hour. To the reaction mixture, N,N-dimethylethylenediamine (0.5 ml) was added, the mixture was stirred at room temperature for 30 minutes, then tetrahydrofuran was distilled off. Saturated potassium hydrogensulfate aqueous solution was added to the obtained aqueous mixture to acidify the mixture, then the mixture was extracted with ethyl acetate. The extract was combined and successively washed with water and saturated saline, dried over with anhydrous sodium sulfate, and concentrated to obtain N-tert-butoxycarbonyl-isoserine as a crude product (829 mg). The obtained product (829 mg) was dissolved in dichloromethane (10 ml), glycine ethyl ester hydrochloride (850 mg), 1-hydroxybenztriazole (655 mg), and triethylamine (0.85 ml) were added to the solution, and the mixture was stirred at room temperature for 15 minutes. The reaction mixture was cooled to 0° C., then 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (930 mg) was added and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, the mixture was successively washed with water, saturated potassium hydrogensulfate aqueous solution, water, saturated sodium hydrogencarbonate aqueous solution, and saturated saline, and the organic layer was dried over with anhydrous sodium sulfate, then concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1→1/2) to obtain the title compound (441 mg).

reactant | Isoserine | 454 mg | NCC(O)C(=O)O | C3H7NO3
reactant | di-tert-butyldicarbonate | 1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyldicarbonate | 0.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-dimethylethylenediamine | 0.5 ml | CN(CCN)C | C4H12N2
solvent | sodium hydroxide | 2M, 4 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-tert-butoxycarbonyl-isoserine | C(C)(C)(C)OC(=O)NCC(O)C(=O)O | C8H15NO5
